* C:\Users\cohen\Desktop\ECG\ECG_AUDIO_OUT.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N005 N009 VE+ VGND N006 LT1001
X§U2 N024 N022 VE+ VGND N023 LT1001
R1 N022 N023 160K
R2 N018 N022 40K
R3 N009 N018 40K
R4 N006 N009 160K
X§U4 N018 N025 VE+ VGND N025 LT1001
X§U5 VGND N027 VE+ VGND N026 LT1001
R5 N026 N025 10K
C1 N027 N026 68p
R6 N027 N026 866K
R7 N026 N021 499K
R8 N007 N006 150K
R9 N014 N023 150K
R10 N019 N014 150K
R11 N008 N007 150K
X§U6 N014 N007 VE+ VGND N008 LT1001
R12 N024 N013 499K
R13 N005 N004 499K
V§LA N004 N003 PWL file=LA.txt
V§RA N013 N003 PWL file=RA.txt
V§RL_CMI N003 N021 SINE(0 0.2 50)
C5 N020 N019 0.47µ
R14 N020 N019 330K
X§U3 VGND N020 VE+ VGND N019 LT1001
R15 N008 N020 330K
R16 N010 N008 300K
C6 N010 VGND 3300p
X§U7 N010 N016 VE+ VGND N011 LT1001
R17 N011 N016 270K
C7 N012 N011 1µ
R18 N012 VGND 330K
X§U8 N012 N017 VE+ VGND N015 LT1001
R19 NC_01 N017 330K
C8 N015 N017 0.47µ
R20 N017 VGND 330K
V1 VE+ VE- 9
R21 VE+ N001 100K
R22 N001 VE- 100K
D1 N024 VE+ 1N4148
D2 N005 VE+ 1N4148
D3 VE- N024 1N4148
D4 VE- N005 1N4148
C2 N005 N024 10p
C3 N024 VGND 2.2p
C4 VGND N005 2.2p
X§U9 N001 VGND VE+ VE- N002 LT1001
C9 VE+ N001 0.01µ
C10 N001 VE- 0.01µ
R23 VGND N002 1K
C11 VE+ VGND 0.1µ
C12 VE+ VGND 10µ
C13 VGND VE- 10µ
C14 VGND VE- 0.1µ
.model D D
.lib C:\Users\cohen\AppData\Local\LTspice\lib\cmp\standard.dio
* ADC
* LEFT ARM
* RIGHT ARM
* RIGHT LEG/ CMI
.tran 20 ;
.lib LTC.lib
.backanno
.end
