* C:\Users\cohen\Desktop\ECG\ECG_AUDIO_OUT.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 N008 N012 VE+ 0 N009 LT1001
X§U2 N027 N025 VE+ 0 N026 LT1001
R1 N025 N026 160K
R2 N021 N025 40K
R3 N012 N021 40K
R4 N009 N012 160K
X§U4 N021 N028 VE+ 0 N028 LT1001
X§U5 0 N030 VE+ 0 N029 LT1001
R5 N029 N028 10K
C1 N030 N029 68p
R6 N030 N029 866K
R7 N029 N024 1K
R8 N010 N009 150K
R9 N017 N026 150K
R10 N022 N017 150K
R11 N011 N010 150K
X§U6 N017 N010 VE+ 0 N011 LT1001
R12 N027 N016 499K
R13 N008 N007 499K
V§LA N007 N006 PWL REPEAT FOREVER (FILE=LA.txt) ENDREPEAT
V§RA N016 N006 PWL REPEAT FOREVER (FILE=RA.txt) ENDREPEAT
V§RL_CMI N006 N024 SINE(0 0.1 50)
C5 N023 N022 0.47µ
R14 N023 N022 330K
X§U3 0 N023 VE+ 0 N022 LT1001
R15 N011 N023 330K
R16 N013 N011 300K
C6 N013 0 3300p
X§U7 N013 N019 VE+ 0 N014 LT1001
R17 N014 N019 270K
C7 N015 N014 1µ
R18 N015 0 330K
X§U8 N015 N020 VE+ 0 N018 LT1001
R19 NC_01 N020 330K
C8 N018 N020 0.47µ
R20 N020 0 330K
R21 N002 N003 100K
R22 N003 N001 100K
D1 N027 VE+ 1N4148
D2 N008 VE+ 1N4148
D3 VE- N027 1N4148
D4 VE- N008 1N4148
C2 N008 N027 10p
C3 N027 0 2.2p
C4 0 N008 2.2p
X§U9 N003 N004 N002 N001 N005 LT1001
C9 N002 N003 0.01µ
C10 N003 N001 0.01µ
R23 N004 N005 1K
C11 N002 N004 0.1µ
C12 N002 N004 10µ
C13 N004 N001 10µ
C14 N004 N001 0.1µ
V2 0 VE- 4.5
V3 VE+ 0 4.5
.model D D
.lib C:\Users\cohen\AppData\Local\LTspice\lib\cmp\standard.dio
* ADC
* LEFT ARM
* RIGHT ARM
* RIGHT LEG/ CMI
.tran 0 3 0 50u ;
.lib LTC.lib
.backanno
.end
